US07498440B2
Preparation of 4-[hydroxy(diphenyl)methyl]-1-[2-(methyloxy)ethyl]-1-azoniabicyclo[2.2.2]octane bromide
Following the general procedure outlined in Example 4, 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol (0.0597 g, 0.203 mmol) and 2-bromoethyl methyl ether (0.030 mL, 0.319 mmol) in 2 CH3CN/3 CHCl3 (4.0 mL) were reacted to give the desired product (0.0372 g, 42.8%). EI-MS m/z 352(M+) Rt (1.69 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol | 0.203 mmol, 0.0597 g | N12CCC(CC1)(CC2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C20H23NO
reactant | 2-bromoethyl methyl ether | 0.319 mmol, 0.030 mL | COCCBr | C3H7BrO
solvent | CH3CN | 4.0 mL | CC#N | C2H3N
product | 4-[hydroxy(diphenyl)methyl]-1-[2-(methyloxy)ethyl]-1-azoniabicyclo[2.2.2]octane bromide | 0.0372 g, 42.8% | [Br-].OC(C12CC[N+](CC1)(CC2)CCOC)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C23H30NO2.BrH/c1-26-19-18-24-15-12-22(13-16-24,14-17-24)23(25,20-8-4-2-5-9-20)21-10-6-3-7-11-21;/h2-11,25H,12-19H2,1H3;1H/q+1;/p-1
